** sch_path: /foss/pdks/ihp-sg13g2/libs.tech/xschem/sg13g2_tests/mc_lv_nmos_cs_loop.sch
**.subckt mc_lv_nmos_cs_loop
I0 GND Vgs 10u
XM1 Vgs Vgs GND GND sg13_lv_nmos w=1.0u l=0.45u ng=1 m=1
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt_stat



.param mm_ok=1
.param mc_ok=1
.param temp=27

.control

let mc_runs = 1000
let run = 0
set curplot=new
set scratch=$curplot
setplot $scratch
let vg=unitvec(mc_runs)

***************** LOOP *********************
dowhile run < mc_runs

*dc Vds 0 3 0.01
op
set run=$&run
set dt=$curplot
setplot $scratch
let out{$run}={$dt}.Vgs
let Vg[run]={$dt}.Vgs
setplot $dt
reset
let run=run+1
end
***************** LOOP *********************

wrdata sg13_lv_nmos_cs.csv {$scratch}.vg
write sg13_lv_nmos_cs.raw
echo
print {$scratch}.vg

.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
